US07799775B2
In 350 ml of toluene, 66.5 g of ethyl 2-(5-bromopentanoylamino)cyclohex-1-enecarboxylate as synthesized in above Step 4-1-B, 46.9 g of 2-piperazin-1-ylquinoline and 22.3 g of triethylamine were dissolved and heated under reflux for an overnight. The solvent was distilled off under reduced pressure, and ethyl acetate was added to the residue, followed by washing with saturated aqueous sodium hydrogencarbonate solution. The organic layer was dried over anhydrous magnesium sulfate, and from which the solvent was distilled off under reduced pressure. Purifying the residue on silica gel column chromatography (n-hexane:ethyl acetate:methanol=1:6:0.2) to provide 79.8 g (86%) of ethyl 2-[5-(4-quinolin-2-ylpiperazin-1-yl)pentanoylamino]cyclohex-1-enecarboxylate.

reactant | ethyl 2-(5-bromopentanoylamino)cyclohex-1-enecarboxylate | 66.5 g | BrCCCCC(=O)NC1=C(CCCC1)C(=O)OCC | C14H22BrNO3
reactant | 2-piperazin-1-ylquinoline | 46.9 g | N1(CCNCC1)C1=NC2=CC=CC=C2C=C1 | C13H15N3
reactant | triethylamine | 22.3 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-[5-(4-quinolin-2-ylpiperazin-1-yl)pentanoylamino]cyclohex-1-enecarboxylate | 79.8 g, 86% | N1=C(C=CC2=CC=CC=C12)N1CCN(CC1)CCCCC(=O)NC1=C(CCCC1)C(=O)OCC | C27H36N4O3
